US07482356B2
Preparation of 3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid tert-butyl ester (19):
To a solution of 3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid tert-butyl ester, 18, (5.6 g, 20.9 mmol) in CH2Cl2 is added Dess-Martin periodinane (10.7 g, 25.1 mmol) followed by H2O (0.5 mL, 25.1 mmol). After stirring 1 h at room temperature, the solution is poured into aqueous saturated Na2S2O4. The aqueous phase is extracted with CH2Cl2, then EtOAc. The combined organic phases are dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (10% EtOAc/hexanes) to afford 5.6 g (95% yield) of the desired product. 1H NMR (300 MHz, CDCl3) (observed 3:1 mixture of enol:keto tautomers) enol tautomer: δ 12.34 (s, OH), 8.67 (d, J=5.1 Hz, 1H), 7.48 (d, J=5.1 Hz, 1H), 6.35 (s, 1H), 2.62 (s, 3H), 1.57 (s, 9H); ESI+ MS: m/z (rel intensity) 269.1 (30, M++H).

reactant | 3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=NC(=NC=C1)SC)O)=O | C12H18N2O3S
reactant | Dess-Martin periodinane | 25.1 mmol, 10.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | H2O | 25.1 mmol, 0.5 mL | O | H2O
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid tert-butyl ester | 5.6 g, 95% yield | C(C)(C)(C)OC(CC(=O)C1=NC(=NC=C1)SC)=O | C12H16N2O3S
